US08541461B2
42C. {2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-methyl-amine
A solution of [2-(4-Bromo-phenyl)-2-(4-chloro-phenyl)ethyl]-methyl-amine (6.1 g, 13.716 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (5.3 g, 27.431 mmol) and K3PO4 (10.19 g, 48.00 mmol) in ethanol (7.5 ml), methanol (11.5 ml), toluene (7.5 ml) and water (11.5 ml) was purged with nitrogen for 2 minutes. Bis(tri-t-butylphosphine)palladium (0) (175 mg, 2.5 mol %) was then added and the reaction mixture purged with nitrogen for a further 2 minutes. The mixture was then heated to 80° C., under nitrogen for a period of 17 hours. The solvents were removed and the residue was partitioned between ethyl acetate and 2N NaOH. The aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine, dried (MgSO4) and concentrated under reduced pressure. The crude reaction mixture was purified by column chromatography (SiO2), eluting with dichloromethane:methanol:acetic acid:water (90:18:3:2) to afford the title compound (3.6 g); LCMS (PS-A2) Rt 2.08 min [M+H]+ 312.

reactant | [2-(4-Bromo-phenyl)-2-(4-chloro-phenyl)ethyl]-methyl-amine | 13.716 mmol, 6.1 g | BrC1=CC=C(C=C1)C(CNC)C1=CC=C(C=C1)Cl | C15H15BrClN
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 27.431 mmol, 5.3 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | K3PO4 | 48.00 mmol, 10.19 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
solvent | methanol | 11.5 ml | CO | CH4O
solvent | toluene | 7.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 11.5 ml | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 175 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | {2-(4-Chloro-phenyl)-2-[4-(1H-pyrazol-4-yl)-phenyl]-ethyl}-methyl-amine | 3.6 g | ClC1=CC=C(C=C1)C(CNC)C1=CC=C(C=C1)C=1C=NNC1 | C18H18ClN3
